US04720495
3.26 g (0.01 mole) of 8, 9-dichloro-5-methyl-6, 7-dihydro-1,7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid was suspended in 30 ml of methyl cellosolve, 3.43 g (0.03 mole) of N-ethylpiperazine was added thereto, and this mixture was stirred at 100°-110° C. for 2 hours. The resulting reaction solution was evaporated to dryness under reduced pressure. 30 ml of methanol was added to the resulting residue and this mixture was stirred. The insoluble matter was collected by filtration and recrystallized from ethanol to obtain 3.23 g (80.0% yield) of 9-chloro-5-methyl-8-(4-ethyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid in the form of yellow crystals. These crystals had a melting point of 295°-298° C. (dec.).

reactant | 8, 9-dichloro-5-methyl-6, 7-dihydro-1,7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid | 0.01 mole, 3.26 g | ClC1=C(C=C2C(C(=CN3C(CC(C1=C23)=O)C)C(=O)O)=O)Cl | C14H9Cl2NO4
reactant | N-ethylpiperazine | 0.03 mole, 3.43 g | C(C)N1CCNCC1 | C6H14N2
solvent | methyl cellosolve | 30 ml | COCCO | C3H8O2
product | 9-chloro-5-methyl-8-(4-ethyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid | 3.23 g, 80.0% yield | ClC1=C(C=2C(CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)=O)N1CCN(CC1)CC | C20H22ClN3O4
